US05863917
Sodium methoxide (25% solution in methanol, 13.9 ml, 61 mmol) was added over 12 minutes to a stirred solution of 5-amino-2,3-dichloro-6,7-dimethylquinoxaline (6.15 g, 25.4 mmol) in dry tetrahydrofuran (250 ml) under nitrogen at 0° C. The mixture was stirred at 0° C. for 20 minutes, and at room temperature for 72 hours. The mixture was diluted with ethyl acetate (750 ml), washed with water (2×250 ml) and brine (250 ml), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane/dichloromethane) to give 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline (4.55 g, 77%) as a white solid, mp 166°-167° C.

reactant | Sodium methoxide | 61 mmol, 13.9 ml | C[O-].[Na+]
reactant | 5-amino-2,3-dichloro-6,7-dimethylquinoxaline | 25.4 mmol, 6.15 g | NC1=C2N=C(C(=NC2=CC(=C1C)C)Cl)Cl | C10H9Cl2N3
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-2,3-dimethoxy-6,7-dimethylquinoxaline | 4.55 g, 77% | NC1=C2N=C(C(=NC2=CC(=C1C)C)OC)OC | C12H15N3O2
